US05563160
N-Cyano-N'-(2-phenylthioethyl)-N"-3-pyridylguanidine
S-Methyl N-cyano-N'-3-pyridylisothiourea (1.92 g) was dissolved in pyridine (10 ml), and 2-phenylthioethylamine (3.06 g) was added. The mixture was kept at room temperature for 4 days, when it was evaporated in vacuo. The residue was triturated with ether (40 ml), and the resulting suspension was filtered and washed with ether.

reactant | S-Methyl N-cyano-N'-3-pyridylisothiourea | 1.92 g | CSC(NC#N)=NC=1C=NC=CC1 | C8H8N4S
reactant | 2-phenylthioethylamine | 3.06 g | C1(=CC=CC=C1)SCCN | C8H11NS
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | N-Cyano-N'-(2-phenylthioethyl)-N"-3-pyridylguanidine | C(#N)NC(=NC=1C=NC=CC1)NCCSC1=CC=CC=C1 | C15H15N5S
